US04167638
A. 8-Amino-2-ethyl-6-methoxyquinoline.
To a mixture of 9.6 g (0.04 mole) of 6-methoxy-8-nitro-2-vinylquinoline, 5 g (wet weight, washed with ethanol) of Raney nickel catalyst and 250 ml of toluene-95% ethanol (1:1) was added 25 ml of 85% hydrazine hydrate in portions, and after the vigorous reaction was over the mixture was heated under reflux for 5 hr. The condensor was removed and the mixture heated (ethanol added) until the vapors were faintly alkaline. The mixture was cooled, filtered over diatomaceous earth, and the filtrate concentrated in vacuo. The oily residue was dissolved in anhydrous ether and treated with HBr gas. The hydrobromide precipitated as a yellow powder and was recrystallized from ethanol-chloroform. The yield was 6.6 g (56%) of the desired 8-amino-2-ethyl-6-methoxyquinoline hydrobromide, mp 239°-241°. Rf : 0.62 (19.2 ethyl acetate-diethylamine), 0.67 (19:1 ethanol-diethylamine), 0.74 (19:1 methanol-diethylamine).

reactant | 6-methoxy-8-nitro-2-vinylquinoline | 0.04 mole, 9.6 g | COC=1C=C2C=CC(=NC2=C(C1)[N+](=O)[O-])C=C | C12H10N2O3
reactant | hydrazine hydrate | 25 ml | O.NN
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Amino-2-ethyl-6-methoxyquinoline | NC=1C=C(C=C2C=CC(=NC12)CC)OC | C12H14N2O
